US04294843
Sodium (1.27 g; 0.055 mol) was dissolved in absolute ethanol (50 ml) and to this was added 2-aminothiophenol (7.38 g; 0.059 mol). To the resulting solution was added 3-chloromethyl-1,2,4-oxadiazole (6.59 g; 0.055 mol) dropwise over 10 minutes. The resulting mixture was then stirred at ambient temperature for 30 minutes, sodium chloride removed by filtration and the filtrate was evaporated to dryness under reduced pressure to give 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole which was re-crystallised from isopropanol; m.p. 57°.

reactant | Sodium | 0.055 mol, 1.27 g | [Na] | Na
reactant | 2-aminothiophenol | 0.059 mol, 7.38 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | 3-chloromethyl-1,2,4-oxadiazole | 0.055 mol, 6.59 g | ClCC1=NOC=N1 | C3H3ClN2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-aminophenylthiomethyl)-1,2,4-oxadiazole | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
